* C:\FOSSEE\eSim\library\SubcircuitLibrary\54cd365\54cd365.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 06/11/25 08:28:15

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
M7  Net-_C101-Pad1_ Net-_M1-Pad1_ Net-_M7-Pad3_ Net-_M7-Pad3_ mosfet_n		
M10  Net-_C101-Pad1_ Net-_M10-Pad2_ Net-_M10-Pad3_ Net-_M10-Pad3_ mosfet_p		
M9  Net-_M10-Pad3_ Net-_M8-Pad2_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M8  Net-_M7-Pad3_ Net-_M8-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M5  Net-_M10-Pad2_ Net-_M1-Pad1_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M6  Net-_M10-Pad2_ Net-_M1-Pad1_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M3  Net-_M1-Pad1_ Net-_M103-Pad2_ Net-_M2-Pad1_ Net-_M2-Pad1_ mosfet_p		
M2  Net-_M2-Pad1_ Net-_M1-Pad2_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M1  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M4  Net-_M1-Pad1_ Net-_M103-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
C101  Net-_C101-Pad1_ Net-_C101-Pad2_ 10p		
M139  Net-_C104-Pad1_ Net-_M121-Pad1_ Net-_M139-Pad3_ Net-_M139-Pad3_ mosfet_n		
M142  Net-_C104-Pad1_ Net-_M133-Pad1_ Net-_M141-Pad1_ Net-_M141-Pad1_ mosfet_p		
M141  Net-_M141-Pad1_ Net-_M140-Pad2_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M140  Net-_M139-Pad3_ Net-_M140-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M133  Net-_M133-Pad1_ Net-_M121-Pad1_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M134  Net-_M133-Pad1_ Net-_M121-Pad1_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M123  Net-_M121-Pad1_ Net-_M103-Pad2_ Net-_M122-Pad1_ Net-_M122-Pad1_ mosfet_p		
M122  Net-_M122-Pad1_ Net-_M1-Pad2_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M121  Net-_M121-Pad1_ Net-_M1-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M130  Net-_M121-Pad1_ Net-_M103-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
C104  Net-_C104-Pad1_ Net-_C101-Pad2_ 10p		
M113  Net-_C102-Pad1_ Net-_M101-Pad1_ Net-_M113-Pad3_ Net-_M113-Pad3_ mosfet_n		
M116  Net-_C102-Pad1_ Net-_M109-Pad1_ Net-_M115-Pad1_ Net-_M115-Pad1_ mosfet_p		
M115  Net-_M115-Pad1_ Net-_M114-Pad2_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M114  Net-_M113-Pad3_ Net-_M114-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M109  Net-_M109-Pad1_ Net-_M101-Pad1_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M110  Net-_M109-Pad1_ Net-_M101-Pad1_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M103  Net-_M101-Pad1_ Net-_M103-Pad2_ Net-_M102-Pad1_ Net-_M102-Pad1_ mosfet_p		
M102  Net-_M102-Pad1_ Net-_M1-Pad2_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M101  Net-_M101-Pad1_ Net-_M1-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M107  Net-_M101-Pad1_ Net-_M103-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
C102  Net-_C102-Pad1_ Net-_C101-Pad2_ 10p		
M143  Net-_C105-Pad1_ Net-_M124-Pad1_ Net-_M143-Pad3_ Net-_M143-Pad3_ mosfet_n		
M146  Net-_C105-Pad1_ Net-_M135-Pad1_ Net-_M145-Pad1_ Net-_M145-Pad1_ mosfet_p		
M145  Net-_M145-Pad1_ Net-_M144-Pad2_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M144  Net-_M143-Pad3_ Net-_M144-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M135  Net-_M135-Pad1_ Net-_M124-Pad1_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M136  Net-_M135-Pad1_ Net-_M124-Pad1_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M126  Net-_M124-Pad1_ Net-_M103-Pad2_ Net-_M125-Pad1_ Net-_M125-Pad1_ mosfet_p		
M125  Net-_M125-Pad1_ Net-_M1-Pad2_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M124  Net-_M124-Pad1_ Net-_M1-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M131  Net-_M124-Pad1_ Net-_M103-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
C105  Net-_C105-Pad1_ Net-_C101-Pad2_ 10p		
M117  Net-_C103-Pad1_ Net-_M104-Pad1_ Net-_M117-Pad3_ Net-_M117-Pad3_ mosfet_n		
M120  Net-_C103-Pad1_ Net-_M111-Pad1_ Net-_M119-Pad1_ Net-_M119-Pad1_ mosfet_p		
M119  Net-_M119-Pad1_ Net-_M118-Pad2_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M118  Net-_M117-Pad3_ Net-_M118-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M111  Net-_M111-Pad1_ Net-_M104-Pad1_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M112  Net-_M111-Pad1_ Net-_M104-Pad1_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M106  Net-_M104-Pad1_ Net-_M103-Pad2_ Net-_M105-Pad1_ Net-_M105-Pad1_ mosfet_p		
M105  Net-_M105-Pad1_ Net-_M1-Pad2_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M104  Net-_M104-Pad1_ Net-_M1-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M108  Net-_M104-Pad1_ Net-_M103-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
C103  Net-_C103-Pad1_ Net-_C101-Pad2_ 10p		
M147  Net-_C106-Pad1_ Net-_M127-Pad1_ Net-_M147-Pad3_ Net-_M147-Pad3_ mosfet_n		
M150  Net-_C106-Pad1_ Net-_M137-Pad1_ Net-_M149-Pad1_ Net-_M149-Pad1_ mosfet_p		
M149  Net-_M149-Pad1_ Net-_M148-Pad2_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M148  Net-_M147-Pad3_ Net-_M148-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M137  Net-_M137-Pad1_ Net-_M127-Pad1_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M138  Net-_M137-Pad1_ Net-_M127-Pad1_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M129  Net-_M127-Pad1_ Net-_M103-Pad2_ Net-_M128-Pad1_ Net-_M128-Pad1_ mosfet_p		
M128  Net-_M128-Pad1_ Net-_M1-Pad2_ Net-_M102-Pad3_ Net-_M102-Pad3_ mosfet_p		
M127  Net-_M127-Pad1_ Net-_M1-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
M132  Net-_M127-Pad1_ Net-_M103-Pad2_ Net-_C101-Pad2_ Net-_C101-Pad2_ mosfet_n		
C106  Net-_C106-Pad1_ Net-_C101-Pad2_ 10p		
U101  Net-_M1-Pad2_ Net-_M8-Pad2_ Net-_U101-Pad3_ Net-_M140-Pad2_ Net-_U101-Pad5_ Net-_M114-Pad2_ Net-_U101-Pad7_ Net-_C101-Pad2_ Net-_U101-Pad9_ Net-_M144-Pad2_ Net-_U101-Pad11_ Net-_M118-Pad2_ Net-_U101-Pad13_ Net-_M148-Pad2_ Net-_M103-Pad2_ Net-_M102-Pad3_ PORT		
X101  Net-_C101-Pad1_ Net-_U101-Pad3_ INVCMOS		
X104  Net-_C104-Pad1_ Net-_U101-Pad5_ INVCMOS		
X102  Net-_C102-Pad1_ Net-_U101-Pad7_ INVCMOS		
X105  Net-_C105-Pad1_ Net-_U101-Pad9_ INVCMOS		
X103  Net-_C103-Pad1_ Net-_U101-Pad11_ INVCMOS		
X106  Net-_C106-Pad1_ Net-_U101-Pad13_ INVCMOS		

.end
